US08497265B2
Preparation P27.1: 2-(Azetidin-3-yloxy)-3-(Tetrahydro-2H-Pyran-4-yl)Pyridine
A mixture of 2-(azetidin-3-yloxy)-3-(3,6-dihydro-2H-pyran-4-yl)pyridine hydrochloride (see PREPARATION P26.1; 3.5 g, 15 mmol) and wet Pd—C (50%, 1.0 g) in MeOH (100 ml) was stirred under H2 (40 psi) at 30° C. for 3 hours then the reaction mixture was filtered through CELITE® and the filtrate was concentrated in vacuo to give the title compound (3.2 g, 14.6 mmol, yield 91%).

reactant | 2-(azetidin-3-yloxy)-3-(3,6-dihydro-2H-pyran-4-yl)pyridine hydrochloride | 15 mmol, 3.5 g | Cl.N1CC(C1)OC1=NC=CC=C1C=1CCOCC1
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd—C | 1.0 g | [Pd] | Pd
product | 2-(Azetidin-3-yloxy)-3-(Tetrahydro-2H-Pyran-4-yl)Pyridine | 14.6 mmol, 3.2 g, yield 91% | N1CC(C1)OC1=NC=CC=C1C1CCOCC1 | C13H18N2O2
